divider -- 5V into a 1k/2k resistive divider (spice lane leaf example)
* The M0 leaf case: v(out) = 5 * 2k/(1k+2k) = 10/3 exactly.
* Lean-side theorems (spec.lean): for EVERY satisfying assignment,
* The shared exact-DC view proves V(out)=10/3, realizability, and determinacy.
*
* ngspice 46 prevalidation (~/.local/bin/ngspice -b divider.cir, .op):
*   Node    Voltage                      exact
*   out     3.333333e+00                 10/3
*   in      5.000000e+00                 5
*   Source  Current
*   v1#branch  -1.66667e-03              -1/600
v1 in 0 dc 5
r1 in out 1k
r2 out 0 2k
.op
.end
